US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide
4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide (0.48 g) was dissolved in a solution of trifluoroacetic acid (3 mL, 40 mmol) in methylene chloride (3 mL). The solution was stirred at room temperature for 1.5 hours. It was concentrated under reduced pressure. The residue was dissolved in methanol (5 mL). To the solution was added ethylenediamine (3 mL). The mixture was stirred at room temperature for 2 hours. After concentration the crude material was purified by flash chromatography on a silica gel column with methanol in dichloromethylene (0-10%) to afford the desired product (245 mg, 24%). LCMS (M+H)+: m/z=503.2. 1H NMR (400 MHz, DMSO-d6): δ 12.60 (s, 1H), 9.08 (s, 1H), 8.85 (s, 1H), 8.57 (s, 1H), 7.84 (dd, J=8.0, 4.0 Hz, 1H), 7.78 (m, 1H), 7.36 (dd, J=13.0, 7.0 Hz, 1H), 7.23 (m, 1H), 6.64 (dd, J=13.0, 7.0 Hz, 1H), 4.70 (d, J=8.0 Hz, 2H), 4.45 (d, J=8.0 Hz, 2H), 3.78 (s, 2H), 3.43 (m, 1H), 1.09 (d, J=6.5 Hz, 6H), 0.97 (m, 1H), 0.43 (m, 1H), 0.37 (m, 1H), 0.28 (m, 1H), 0.19 (m, 1H).

reactant | 4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide | 0.48 g | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C)C2CC2)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C32H38F2N8O2Si
reactant | trifluoroacetic acid | 40 mmol, 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide | 245 mg, 24% | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C)C2CC2)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C26H24F2N8O
